US04588719
5-Methoxy-1-piperidinylmethyl-1,2,3,4-tetrahydronaphthalene
5% Palladium on carbon (3.0 g) is added to a solution of 5-methoxy-1-piperidinylmethyl-1,2-dihydronaphthalene (63 g) in absolute ethanol (600 ml) and placed under H2 at an initial pressure of 47 psi for 30 min. The reaction mixture is filtered and the filtrate evaporated in vacuo yielding the desired product as an oil.

reactant | 5-methoxy-1-piperidinylmethyl-1,2-dihydronaphthalene | 63 g | COC1=C2C=CCC(C2=CC=C1)CN1CCCCC1 | C17H23NO
catalyst | Palladium on carbon | 3.0 g | [Pd] | Pd
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | 5-Methoxy-1-piperidinylmethyl-1,2,3,4-tetrahydronaphthalene | COC1=C2CCCC(C2=CC=C1)CN1CCCCC1 | C17H25NO
